US09403849B2
b) Synthesis of 9,10-bis(phenyl-2-boronic acid pinacol ester)anthracene
40.0 ml of n-BuLi (2.5M in hexane) are added to a suspension of 19.5 g (40 mmol) of 9,10-bis(2-bromophenyl)anthracene in 1000 ml of diethyl ether, and the mixture is stirred at room temperature for 6 h. The reaction mixture is subsequently cooled to −78° C., and 26.8 ml (240 mmol) of trimethyl borate are added rapidly with vigorous stirring. After slow warming to room temperature, a mixture of 8 ml of acetic acid and 300 ml of water and then 500 ml of ethyl acetate are added, the mixture is stirred at room temperature for a further 1 h, and the organic phase is separated off, washed twice with 500 ml of water and evaporated under reduced pressure. 300 ml of toluene and 10.6 g (90 mmol) of pinacol are added to the residue, and the mixture is heated on a water separator. When the separation of water is complete, 250 ml of toluene are distilled off, and 300 ml of ethanol are added. After cooling, the colourless solid is filtered off with suction, recrystallised three times from toluene and dried under reduced pressure. Sublimation, p=1×10−5 mbar, T=260° C. Yield: 10.6 g (18 mmol), 45.5% of theory; purity: 99.9% according to 1H-NMR.

reactant | n-BuLi | 2.5M, 40.0 ml | [Li]CCCC
reactant | 9,10-bis(2-bromophenyl)anthracene | 40 mmol, 19.5 g | BrC1=C(C=CC=C1)C=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=C(C=CC=C1)Br | C26H16Br2
reactant | trimethyl borate | 240 mmol, 26.8 ml | B(OC)(OC)OC | C3H9BO3
reactant | pinacol | 90 mmol, 10.6 g | OC(C)(C)C(C)(C)O | C6H14O2
solvent | diethyl ether | 1000 ml | C(C)OCC | C4H10O
solvent | water | O | H2O
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 300 ml | O | H2O
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
product | anthracene | C1=CC=CC2=CC3=CC=CC=C3C=C12 | C14H10
